### PR TITLE
VER-1391

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This addresses the points listed in JIRA issue VER-1391.

### CODE REVIEW

File: proof/refine/ARM/StateRelation.thy [hunk 1]
```diff
@@ -882,7 +882,7 @@ lemma sc_replies_relation_scReply:
   "\<lbrakk> sc_replies_relation s s';
      kheap s x = Some (kernel_object.SchedContext sc n);
      ksPSpace s' x = Some (KOSchedContext sc')\<rbrakk>
-    \<Longrightarrow> hd_opt (sc_replies sc) = scReply sc'"
+    \<Longrightarrow> hd_opt (sc_replies sc) = scReplies_of s' x"
```
Comment (mktnk3) [inline proof/refine/ARM/StateRelation.thy:885]: Hmm. I think I told you something not quite true when you asked me about this yesterday. We can do a projection version, actually.
```
"⟦ sc_replies_relation s s'; sc_at x s; bound (scs_of' s' x)⟧
    ⟹ (sc_replies_of s |> hd_opt) x = scReplies_of s' x"
```
I believe this would work. Can you have a look into this?

Comment (mktnk3) [reply proof/refine/ARM/StateRelation.thy:885]: Also, we probably want to rename the lemma with something more suitable.

**Review by mktnk3 — APPROVED** [review]
Great cleanup. Thanks, Michael!

**Review by corlewis — APPROVED** [review]
Awesome cleanup, and it's great to see continued progress towards more consistent use of projections!

File: proof/invariant-abstract/IpcCancel_AI.thy [hunk 2]
```diff
@@ -1275,19 +1271,44 @@ lemma replies_blocked_takeWhile_eq:
...
-   set_sc_obj_ref sc_replies_update sc_ptr (takeWhile (\<lambda>r. r \<noteq> r') replies)
-   \<lbrace>\<lambda>rv. valid_replies\<rbrace>"
-  apply (wpsimp wp: update_sched_context_wp)
-  apply (clarsimp simp: valid_replies_2_def)
-  apply (intro conjI)
-   apply (simp add: replies_blocked_takeWhile_eq)
-   apply (rule subset_trans, erule replies_with_sc_takeWhile_subset[THEN image_mono], assumption, assumption)
-  apply (rule inj_on_subset, assumption, rule replies_with_sc_takeWhile_subset, assumption, assumption)
+(* FIXME RT: Move *)
+lemma neq_conv :"((\<noteq>) x) = (\<lambda>c. c \<noteq> x)"
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply proof/invariant-abstract/IpcCancel_AI.thy]: I moved this to be with `identity_eq`
